US03998815
To an ether solution of benzoyl chloride (2.81 g; 0.02 mol) there was added dropwise 1.67 g (0.02 mol) of 1-methylimidazole with stirring. The resulting mixture was evaporated in vacuo and the residue was allowed to react with 2.12 g (0.02 mol) of benzaldehyde at 70° C overnight, using a CaCl2 drying tube to protect it from moisture. After cooling, the reaction mixture was titrated with ether and the solid separated by filtration to give 5.28 g (m.p. 163°-178° ; 80% yield) of crude 1-methyl-3-(α-benzoyloxybenzyl)-imidazolium chloride. After recrystallization from dichloromethane-dioxane, pure 1-methyl-3-(α-benzoyloxybenzyl)-imidazolim chloride was obtained. The mp of the compound was 199°-201° C. The ir and nmr spectra were identical with that of the compound obtained from Method A above.

reactant | benzoyl chloride | 0.02 mol, 2.81 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 1-methylimidazole | 0.02 mol, 1.67 g | CN1C=NC=C1 | C4H6N2
reactant | benzaldehyde | 0.02 mol, 2.12 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | ether | CCOCC | C4H10O
product | 1-methyl-3-(α-benzoyloxybenzyl)-imidazolium chloride | 5.28 g, 80% yield | [Cl-].C[N+]1=CN(C=C1)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)=O | InChI=1S/C18H17N2O2.ClH/c1-19-12-13-20(14-19)17(15-8-4-2-5-9-15)22-18(21)16-10-6-3-7-11-16;/h2-14,17H,1H3;1H/q+1;/p-1
